US03975414
Preparation of N,N'-bis(4-anilinophenyl)-2,12-dimethyl-4,7,10-trithiatridecanediamide
Sixty-one grams of 2-mercaptoethyl sulfide was added to a solution of 200 grams of N-(4-anilinophenyl) methacrylamide in 2450 milliliters of ethanol. A solution of 5 grams of potassium hydroxide in 50 milliliters of ethanol was then added, and the mixture was heated at 50°C. for 5 hours. Product began to precipitate after about 2 hours. The mixture was then allowed to cool to room temperature and the solid product was filtered off. The product, after drying, weighed 231.5 grams (89 percent of theory) and melted at 131° to 133.5°C.

reactant | 2-mercaptoethyl sulfide | Sixty-one grams | SCCSCCS | C4H10S3
reactant | N-(4-anilinophenyl) methacrylamide | 200 grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C(=C)C)=O | C16H16N2O
reactant | potassium hydroxide | 5 grams | [OH-].[K+]
solvent | ethanol | 2450 milliliters | C(C)O | C2H6O
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | N,N'-bis(4-anilinophenyl)-2,12-dimethyl-4,7,10-trithiatridecanediamide | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C(CSCCSCCSCC(C(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)C)C)=O | C36H42N4O2S3
